US09260416B2
Step 3: [6-(2-Oxo-propylsulfanyl)-pyridin-2-yl]acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 3, using the following starting materials: (6-mercapto-pyridin-2-yl)-acetic acid ethyl ester and chloroacetone.

reactant | (6-mercapto-pyridin-2-yl)-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)S)=O | C9H11NO2S
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | [6-(2-Oxo-propylsulfanyl)-pyridin-2-yl]acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)SCC(C)=O)=O | C12H15NO3S
